US08871792B2
(R)-3-[N-(3′-Chlorobiphenyl-4-ylmethyl)-N′-(3-ethoxycarbonyloxymethoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid
A mixture of chloromethyl ethyl carbonate (22.7 mg, 164 μmol) and NaI (24.5 mg, 164 μmol) in acetone (2.0 mL, 27 mmol) was stirred at 60° C. for 1 hour, then cooled to room temperature and added to a mixture of (R)-3-[N-(3′-chlorobiphenyl-4-ylmethyl)-N′-(3-hydroxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid 2-oxo-2-phenylethyl ester (30.0 mg, 54.5 μmol) and cesium carbonate (17.8 mg, 0.054.5 μmol) in acetone (1 mL). The resulting mixture was stirred at room temperature for 2 hours, concentrated, dissolved in AcOH (2 mL), filtered, and purified by reverse phase preparative HPLC. The desired fractions were combined and concentrated. Zinc (178 mg, 2.7 mmol) and AcOH (1.0 mL, 18 mmol) were added and the resulting mixture was stirred at room temperature for 2 hours. The mixture was filtered and purified by reverse phase preparative HPLC to yield the title compound (2.2 mg). MS m/z [M+H]+ calc'd for C24H24ClN3O9, 534.12. found 534.3.

reactant | chloromethyl ethyl carbonate | 164 μmol, 22.7 mg | C(OCCl)(OCC)=O | C4H7ClO3
reactant | NaI | 164 μmol, 24.5 mg | [Na+].[I-]
reactant | (R)-3-[N-(3′-chlorobiphenyl-4-ylmethyl)-N′-(3-hydroxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid 2-oxo-2-phenylethyl ester | 54.5 μmol, 30.0 mg | O=C(COC([C@@H](CN(NC(=O)C1=CC(=NO1)O)CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)O)=O)C1=CC=CC=C1 | C28H24ClN3O7
reactant | cesium carbonate | 17.8 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | AcOH | 18 mmol, 1.0 mL | CC(=O)O | C2H4O2
solvent | acetone | 1 mL | CC(=O)C | C3H6O
catalyst | Zinc | 2.7 mmol, 178 mg | [Zn] | Zn
solvent | acetone | 27 mmol, 2.0 mL | CC(=O)C | C3H6O
product | (R)-3-[N-(3′-Chlorobiphenyl-4-ylmethyl)-N′-(3-ethoxycarbonyloxymethoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid | 2.2 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)OCOC(=O)OCC)C[C@H](C(=O)O)O | C24H24ClN3O9
